### PR TITLE
[Merged by Bors] - feat(Order/SuccPred/CompleteLinearOrder): generalize `csSup_mem_of_not_isSuccLimit`

### PR DESCRIPTION
**Pull request by SnirBroshi**
Given `s.Nonempty` and `BddAbove s` we can conclude `sSup s ∈ s` using either:
- `csSup_mem_of_not_isSuccPrelimit`, given `ConditionallyCompleteLinearOrder` and `¬IsSuccPrelimit (sSup s)`
- `csSup_mem_of_not_isSuccLimit`, given `ConditionallyCompleteLinearOrderBot` and `¬IsSuccLimit (sSup s)`

We generalize both to a theorem that requires `ConditionallyCompleteLinearOrder` and `¬IsSuccLimit (sSup s)`.

This creates 8 theorems that require `¬IsSuccPrelimit` but are now easily proved with the `¬IsSuccLimit` theorems, we replace `csSup_mem_of_not_isSuccPrelimit`/`exists_eq_ciSup_of_not_isSuccPrelimit` with their primed `ConditionallyCompleteLinearOrderBot` theorems, and deprecates the other 6.

Tags a random `to_dual` (in `ConditionallyCompleteLattice/Basic.lean`) to let us `to_dual`ize the new lemmas.

---

~~Should we also deprecate the 8 theorems that require `¬IsSuccPrelimit` and now use `mt`?~~

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/SuccPred/CompleteLinearOrder.lean [hunk 1]
```diff
@@ -23,41 +23,81 @@ variable {ι : Sort*} {α : Type*}
...
-lemma csInf_mem_of_not_isPredPrelimit
-    (hne : s.Nonempty) (hbdd : BddBelow s) (hlim : ¬ IsPredPrelimit (sInf s)) : sInf s ∈ s := by
-  obtain ⟨y, hy⟩ := not_forall_not.mp hlim
-  obtain ⟨i, his, hi⟩ := exists_lt_of_csInf_lt hne hy.lt
-  exact eq_of_le_of_not_lt (csInf_le hbdd his) (hy.2 · hi) ▸ his
+lemma exists_eq_ciInf_of_not_isPredLimit (hbdd : BddBelow (range f))
+    (hf : ¬ IsPredLimit (⨅ i, f i)) : ∃ i, f i = ⨅ i, f i :=
+  csInf_mem_of_not_isPredLimit (range_nonempty f) hbdd hf
+
+lemma csSup_mem_of_not_isSuccPrelimit (hne : s.Nonempty) (hbdd : BddAbove s)
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/CompleteLinearOrder.lean]: I don't think we need the `IsSuccPrelimit`  versions alongside the `IsSuccLimit` versions, can you deprecate/remove these?

The theorem currently named `csSup_mem_of_not_isSuccPrelimit'` should probably be renamed without the prime.

File: Mathlib/Order/SuccPred/CompleteLinearOrder.lean [hunk 2]
```diff
@@ -23,41 +23,81 @@ variable {ι : Sort*} {α : Type*}
 section ConditionallyCompleteLinearOrder
 variable [ConditionallyCompleteLinearOrder α] [Nonempty ι] {f : ι → α} {s : Set α} {x : α}
 
-lemma csSup_mem_of_not_isSuccPrelimit
-    (hne : s.Nonempty) (hbdd : BddAbove s) (hlim : ¬ IsSuccPrelimit (sSup s)) : sSup s ∈ s := by
-  obtain ⟨y, hy⟩ := not_forall_not.mp hlim
-  obtain ⟨i, his, hi⟩ := exists_lt_of_lt_csSup hne hy.lt
-  exact eq_of_le_of_not_lt (le_csSup hbdd his) (hy.2 hi) ▸ his
+lemma csSup_mem_of_not_isSuccLimit (hne : s.Nonempty) (hbdd : BddAbove s)
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/CompleteLinearOrder.lean:27]: You can tag this with `to_dual` if you add two missing attributes:
```suggestion
attribute [to_dual existing csInf_le] le_csSup
attribute [to_dual existing exists_lt_of_csInf_lt] exists_lt_of_lt_csSup

@[to_dual]
lemma csSup_mem_of_not_isSuccLimit (hne : s.Nonempty) (hbdd : BddAbove s)
```

File: Mathlib/Order/SuccPred/CompleteLinearOrder.lean [hunk 3]
```diff
@@ -23,41 +23,81 @@ variable {ι : Sort*} {α : Type*}
...
+    (hlim : ¬ IsPredLimit (sInf s)) : sInf s ∈ s := by
+  rw [IsPredLimit, not_and_or, not_not] at hlim
+  rcases hlim with (hmax | hlim)
+  · have ⟨a, has⟩ := hne
+    rwa [hmax.eq_of_le <| csInf_le hbdd has]
+  · have ⟨y, hy⟩ := not_forall_not.mp hlim
+    have ⟨i, his, hi⟩ := exists_lt_of_csInf_lt hne hy.lt
+    exact eq_of_le_of_not_lt (csInf_le hbdd his) (hy.2 · hi) ▸ his
+
+lemma exists_eq_ciSup_of_not_isSuccLimit (hbdd : BddAbove (range f))
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/CompleteLinearOrder.lean:38]: Likewise:
```suggestion
@[to_dual]
lemma exists_eq_ciSup_of_not_isSuccLimit (hbdd : BddAbove (range f))
```

**Review by vihdzp — COMMENTED** [review]
Thanks! I missed this when I added these theorems.

File: Mathlib/Order/SuccPred/CompleteLinearOrder.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Order/SuccPred/CompleteLinearOrder.lean]: AFAIK the prime is a convention of `ConditionallyCompleteLinearOrderBot`, no?
(if it isn't, then note-to-self: also fix https://github.com/leanprover-community/mathlib4/pull/36169#discussion_r2996452396)

Comment (vihdzp) [reply Mathlib/Order/SuccPred/CompleteLinearOrder.lean]: I wouldn't call it a convention, it just so happens that a bunch of theorems about `ConditionallyCompleteLinearOrder` can be stated with more general hypotheses in `ConditionallyCompleteLinearOrderBot`, hence the prime.

Comment (SnirBroshi) [reply Mathlib/Order/SuccPred/CompleteLinearOrder.lean]: I deprecated them, but now the unprimed version is still taken until a deprecation cycle passes.
Should we add a TODO, skip the cycle and delete the deprecated version, or leave it as is for now?

Comment (vihdzp) [reply Mathlib/Order/SuccPred/CompleteLinearOrder.lean]: I think we can skip the cycle here. Whatever downstream breakage there is will be very easy to fix (just delete an unneeded assumption).

**Comment by bryangingechen** [comment]
Thanks!
bors r+
